US06884821B1
Ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 2,4-dichlorobenzoic acid were treated in the same manner as in Example 19d), to give ethyl 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoate.

reactant | Ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
product | ethyl 3-(3-{[(2,4-dichlorobenzoyl)amino]methyl}-4-methoxyphenyl)-2-isopropoxypropanoate | ClC1=C(C(=O)NCC=2C=C(C=CC2OC)CC(C(=O)OCC)OC(C)C)C=CC(=C1)Cl | C23H27Cl2NO5
